US09260408B2
[E] Ethanesulfonic acid [5-(7-chloro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylmethyl]-amide
A mixture of 7-chloro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one (20 mg, 0.06 mmol), ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide (intermediate A-11, 26 mg, 0.09 mmol), bis(triphenylphosphine)-palladium(II) chloride (4.2 mg, 0.006 mmol) and sodium carbonate (2 N aq., 0.06 mL) in DMF (1 mL) was heated in a microwave at 120° C. for 30 minutes. The mixture was diluted with EtOAc, washed with water, dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by prep-HPLC to afford the title product (7.1 mg, 30%) as a white solid. MS, 394.2 (M+H+)+.

reactant | 7-chloro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 0.06 mmol, 20 mg | ClC1=C(C=C2CCC(N(C2=C1)C)=O)B1OC(C(O1)(C)C)(C)C | C16H21BClNO3
reactant | ethanesulfonic acid (5-bromo-pyridin-3-ylmethyl)-amide | 0.09 mmol, 26 mg | BrC=1C=C(C=NC1)CNS(=O)(=O)CC | C8H11BrN2O2S
reactant | sodium carbonate | 2 N, 0.06 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 0.006 mmol, 4.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Ethanesulfonic acid [5-(7-chloro-1-methyl-2-oxo-1,2,3,4-tetrahydro-quinolin-6-yl)-pyridin-3-ylmethyl]-amide | 7.1 mg, 30% | ClC1=C(C=C2CCC(N(C2=C1)C)=O)C=1C=C(C=NC1)CNS(=O)(=O)CC | C18H20ClN3O3S
